US05880147
2-t-Butyl-5-(t-butyldimethylsilyloxymethyl)-1-nitrobenzene
4.15 g (27.5 mmol) of t-butyldimethylsilyl chloride, 3.85 ml (27.6 mmol) of triethylamine and 815 mg (0.503 mmol) of 4-N,N-dimethyl-aminopyridine were added, with ice-cooling, to a solution of 5.24 g (25.0 mmol) of 2-t-butyl-5-hydroxymethyl-1-nitrobenzene (prepared as described in Preparation 10) in 50 ml of methylene chloride, and the resulting mixture was stirred at room temperature for 40 minutes. The reaction mixture was then diluted with a 1:1 by volume mixture of hexane and diethyl ether, and the diluted solution was washed with water, with dilute aqueous hydrochloric acid, with water, with an aqueous solution of sodium hydrogencarbonate and with a saturated aqueous solution of sodium chloride, in that order. The solvent was removed by distillation under reduced pressure, and the resulting residue was purified by column chromatography through 100 g of silica gel, using a 1:1 by volume mixture of methylene chloride and hexane as the eluent, to give 8.04 g (yield 99%) of the title compound as an oily substance.

reactant | t-butyldimethylsilyl chloride | 27.5 mmol, 4.15 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | triethylamine | 27.6 mmol, 3.85 ml | C(C)N(CC)CC | C6H15N
reactant | 2-t-butyl-5-hydroxymethyl-1-nitrobenzene | 25.0 mmol, 5.24 g | C(C)(C)(C)C1=C(C=C(C=C1)CO)[N+](=O)[O-] | C11H15NO3
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-t-Butyl-5-(t-butyldimethylsilyloxymethyl)-1-nitrobenzene | 8.04 g, yield 99% | C(C)(C)(C)C1=C(C=C(C=C1)CO[Si](C)(C)C(C)(C)C)[N+](=O)[O-] | C17H29NO3Si
